US05130330
(±)-cis-N-[2-(3,4-Dichlorophenyl)ethyl]-N-methyl-2-(1-pyrrolidinyl)cyclohexylamine (Compound No. 1).
(±)-cis-2-Pyrrolidinyl-N-methylcyclohexylamine (3 gm) was combined with anhydrous dimethylformamide (70 ml) and warmed to 60° C. 2-(3,4-dichlorophenyl)ethyl methanesulfonate (14 gm) was added to the warm amine solution over 3 days. The reaction mixture was diluted to 500 ml with water and extracted with chloroform. The combined extracts were washed with water and treated with a solution of hydrogen bromide in methanol. The solution was concentrated on a rotary evaporator and the residual dimethylformamide removed by distillation under high vacuum. The residue was triturated with 2-propanol to provide a white solid. The solid was recrystallized from 2-propanol. Analytical data are reported in Table I.

reactant | (±)-cis-2-Pyrrolidinyl-N-methylcyclohexylamine | 3 gm | N1(CCCC1)[C@@H]1[C@@H](CCCC1)NC | C11H22N2
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | 2-(3,4-dichlorophenyl)ethyl methanesulfonate | 14 gm | CS(=O)(=O)OCCC1=CC(=C(C=C1)Cl)Cl | C9H10Cl2O3S
solvent | water | O | H2O
product | (±)-cis-N-[2-(3,4-Dichlorophenyl)ethyl]-N-methyl-2-(1-pyrrolidinyl)cyclohexylamine | ClC=1C=C(C=CC1Cl)CCN(C)[C@H]1[C@H](CCCC1)N1CCCC1 | C19H28Cl2N2
